US07465815B2
tert-Butyl (7-bromo-2,2,4,6-tetramethyl-3-oxo-2,3-dihydro-1-benzofuran-5-yl)carbamate
To a solution of tert-butyl(2,2,4,6-tetramethyl-3-oxo-2,3-dihydro-1-benzofuran-5-yl)carbamate obtained in Reference Example 60 (4.86 g, 15.9 mmol) in acetonitrile (70 mL) was added N-bromosuccinimide (5.67 g, 31.8 mmol) was heated under reflux for 1.5 hours. The reaction solution was cooled to room temperature, followed by addition of water, which was extracted with ethyl acetate, and the organic layer was washed with water and a saturation brine, dried over anhydrous sodium sulfate, and then was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=3:7), and then was recrystallized with ethyl acetate-hexane to obtain 4.40 g (yield 72%) of the title compound. Melting point: 131-132° C.

reactant | tert-butyl(2,2,4,6-tetramethyl-3-oxo-2,3-dihydro-1-benzofuran-5-yl)carbamate | C(C)(C)(C)OC(NC=1C(=CC2=C(C(C(O2)(C)C)=O)C1C)C)=O | C17H23NO4
reactant | N-bromosuccinimide | 31.8 mmol, 5.67 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | O | H2O
solvent | acetonitrile | 70 mL | C(C)#N | C2H3N
product | tert-Butyl (7-bromo-2,2,4,6-tetramethyl-3-oxo-2,3-dihydro-1-benzofuran-5-yl)carbamate | 4.40 g, yield 72% | BrC1=C(C(=C(C=2C(C(OC21)(C)C)=O)C)NC(OC(C)(C)C)=O)C | C17H22BrNO4
